US07015218B1
Methyl 4-phenyl-2,4-dioxobutanoate (10 g) obtained by acetophenone and dimethyl oxalate as starting materials and methylhydrazine were reacted in ethanol (60 ml) at a refluxing temperature for 1 h. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (mobile phase:dichloromethane) to give methyl 1-methyl-3-phenylpyrazole-5-carboxylate (3.0 g) and methyl 1-methyl-5-phenylpyrazole-3-carboxylate (3.6 g).

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | dimethyl oxalate | C(C(=O)OC)(=O)OC | C4H6O4
product | Methyl 4-phenyl-2,4-dioxobutanoate | 10 g | C1(=CC=CC=C1)C(CC(C(=O)OC)=O)=O | C11H10O4
